US07741327B2
In a flask under argon was placed (S)-2-benzyloxycarbonylamino-succinic acid 1-methyl ester (7.00 g, 24.89 mmol) in tetrahydrofuran (15 mL) and cooled to −5° C. To this mixture was added a 1.0M solution of borane in tetrahydrofuran (50.6 mL, 50.6 mmol), slowly over a 15 min period. After the addition was complete, the mixture was stirred at 0° C. for 5 h and then quenched by slow addition of a 10% aqueous citric acid solution (100 mL) and then diethyl ether (100 mL). The mixture was then extracted with diethyl ether (3×50 mL) and the organic layers were combined and washed with a 1:1 solution of water:saturated aqueous sodium chloride solution (50 mL), dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (silica gel 60, 230-400 mesh; 40% ethyl acetate/hexanes to 80% ethyl acetate/hexanes) afforded (S)-2-benzyloxycarbonylamino-4-hydroxy-butyric acid methyl ester (4.50 g, 68%) as a colorless viscous oil.

reactant | (S)-2-benzyloxycarbonylamino-succinic acid 1-methyl ester | 24.89 mmol, 7.00 g | COC([C@H](CC(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C13H15NO6
reactant | borane | B | BH3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50.6 mmol, 50.6 mL | O1CCCC1 | C4H8O
product | (S)-2-benzyloxycarbonylamino-4-hydroxy-butyric acid methyl ester | 4.50 g, 68% | COC([C@H](CCO)NC(=O)OCC1=CC=CC=C1)=O | C13H17NO5
